US05250669
(1) Synthesis of ethyl cyclohexanecarboxylate
To a solution of ethanol (45 ml) and triethylamine (78 g) in toluene (120 ml), cyclohexane carbonyl chloride (75 g, 0.51 mol) was added dropwise at 15° C. or lower, and stirring was continued for 3 h at room temperature. The reaction mixture was poured into cold H2O (350 ml), acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic extract was washed thrice with H2O (150 ml), dried over anhydrous Na2SO4 and the solvent was removed in vacuo. The residue (93 g) was distilled under reduced pressure to give the title compound as a colorless oil; yield: 64 g; bp 101°-102° C./35 mmHg (Lit: bp 194° C./~760 torr: G. A. Olah, T. Keumi, D. Meider, Synthesis, 1978, 929.).

reactant | ethanol | 45 ml | C(C)O | C2H6O
reactant | triethylamine | 78 g | C(C)N(CC)CC | C6H15N
reactant | cyclohexane carbonyl chloride | 0.51 mol, 75 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 350 ml | O | H2O
product | ethyl cyclohexanecarboxylate | C1(CCCCC1)C(=O)OCC | C9H16O2
